US05672597
N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-[2-(2-furoylamino)ethylsulfinyl]acetamide
There was suspended 3.0 g (0.0122 mol) of 2-[2-(2-furoylamino)ethylsulfinyl]acetic acid in 100 ml of dichloromethane and added 1.87 g (0.0122 mol) of HOBt and 2.52 g (0.0122 mol) of DCC under cooling with ice, and the mixture was stirred for 30 minutes under cooling with ice. Thereto was added 3.04 g (0.0122 mol) of N-3-[3-(piperidinomethyl)phenoxy]propylamine, and the mixture was stirred for 18 hours at room temperature. The precipitate was filtrated off, and the filtrate was washed with 5% aqueous solution of sodium hydroxide and with water and dried over Glauber's salt. Then the solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=5:1) to give 3.0 g of the titled compound as crystals.

reactant | 2-[2-(2-furoylamino)ethylsulfinyl]acetic acid | 0.0122 mol, 3.0 g | O1C(=CC=C1)C(=O)NCCS(=O)CC(=O)O | C9H11NO5S
reactant | HOBt | 0.0122 mol, 1.87 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.0122 mol, 2.52 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N-3-[3-(piperidinomethyl)phenoxy]propylamine | 0.0122 mol, 3.04 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-[2-(2-furoylamino)ethylsulfinyl]acetamide | 3.0 g | N1(CCCCC1)CC=1C=C(OCCCNC(CS(=O)CCNC(=O)C=2OC=CC2)=O)C=CC1 | C24H33N3O5S
